US07144893B2
4-acetoxy-4-phenyl-2,5-cyclohexadien-1-one (Q21)
To 4-hydroxy-4-phenyl-2,5-cyclohexadienone (0.335 g, 1.8 mmol), acetic anhydride (0.276 g, 2.7 mmol, 1.5 equivalents) and triethylamine (0.273 g, 2.7 mmol, 1.5 equivalents) dissolved in dichloromethane (20 mL) was added 4-dimethylaminopyridine (DMAP) (0.044 g, 0.36 equivalents). The reaction mixture was stirred for 24 hours at room temperature, washed with 1 M HCl (20 mL) then saturated sodium hydrogen carbonate solution (2×20 mL) and the organic layer dried over magnesium sulphate. Removal of the solvent in vacuo gave an oil which was dissolved in ether, filtered and the solvent removed in vacuo to gave the title compound as a white solid. The yield was 62%; mp 100–101° C. (lit. 106–109° C.); 1H NMR (CDCl3) δ 7.48–7.36 (5H, m, ArH); 6.99 (2H, d, J 19.2 Hz, H-3, H-5); 6.36 (2H, d, J 10.2 Hz, H-2, H-6); 2.22 (3H, s, O2CCH3).

reactant | 4-hydroxy-4-phenyl-2,5-cyclohexadienone | 1.8 mmol, 0.335 g | OC1(C=CC(C=C1)=O)C1=CC=CC=C1 | C12H10O2
reactant | acetic anhydride | 2.7 mmol, 0.276 g, 1.5 equivalents | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.7 mmol, 0.273 g, 1.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.044 g, 0.36 equivalents | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | CCOCC | C4H10O
product | 4-acetoxy-4-phenyl-2,5-cyclohexadien-1-one | yield was 62% | C(C)(=O)OC1(C=CC(C=C1)=O)C1=CC=CC=C1 | C14H12O3
